US05830821
1. Diethyl methyl(2-naphthylmethyl)malonate (1)
5.15 g (224 mmol) of sodium were dissolved in 150 ml of absolute ethanol, while heating, and 37.3 ml (217 mmol) of diethyl methylmalonate were added at room temperature. A solution of 50 g (217 mmol) of 2-bromomethylnaphthalene (96% pure) in 270 ml of ethanol was slowly added dropwise at 0° C., and the mixture was heated under reflux for a further 4 to 5 hours. It was poured onto ice-water and extracted with ethyl acetate. The combined organic phases were dried with sodium sulfate and evaporated. After drying under an oil pump vacuum, the oily residue was stirred with hexane at 0° C., whereupon 55 g (81%) of the compound 1 crystallized.

reactant | sodium | 224 mmol, 5.15 g | [Na] | Na
reactant | diethyl methylmalonate | 217 mmol, 37.3 ml | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | 2-bromomethylnaphthalene | 217 mmol, 50 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 270 ml | C(C)O | C2H6O
product | Diethyl methyl(2-naphthylmethyl)malonate | CC(C(=O)OCC)(C(=O)OCC)CC1=CC2=CC=CC=C2C=C1 | C19H22O4
